US07842710B2
In a 1 liter three-necked flask equipped with a stirrer, dropping funnel and thermometer, 63 g 1-(1-chlorethyl)-2-nitrobenzene (VIII-1) (purity 99.4%, 0.337 mols) in 20 ml acetonitrile are added dropwise at 30-40° C. to 34.8 g (0.354 mol) sodium 2-propanethiolate in 450 ml acetonitrile. The suspension is stirred at 40° C. for another 16 hours, then cooled, and the solvent is removed under vacuum. The residue remaining is dissolved in dichloromethane, washed, dried over sodium sulfate, and the solvent is removed under vacuum. The crude product is purified by column chromatography (silica gel, 29:1 hexane/acetone). 48 g (98.8% purity by HPLC, 62.4% theoretical yield) of 1-[1-(isopropylthio)ethyl]-2-nitrobenzene are obtained as a yellow oil [logP (pH 2.3)=3.89].

reactant | 1-(1-chlorethyl)-2-nitrobenzene | 0.337 mols, 63 g | ClC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H8ClNO2
reactant | sodium 2-propanethiolate | 0.354 mol, 34.8 g | CC(C)[S-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
product | 1-[1-(isopropylthio)ethyl]-2-nitrobenzene | 48 g | C(C)(C)SC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C11H15NO2S
